US08809342B2
A mixture of 3-methyl-1-(2-methyl-4′-(trifluoromethyl)biphenyl-4-yl)butan-1-amine (250 mg, 0.778 mmol), methyl 6-fluoronicotinate (264 mg, 1.17 mmol), and potassium carbonate (323 mg, 2.33 mmol) in N,N-dimethylformamide (4 mL) was stirred for 12 hrs at 120° C. The reaction was concentrated and purification by column chromatography gave methyl 6-(3-methyl-1-(2-methyl-4′-(trifluoromethyl) biphenyl-4-yl)butylamino)nicotinate (300 mg). 1H NMR (400 MHz, CD3OD, δ): 8.65 (s, 1H), 7.87 (d, 1H), 7.58 (d, 2H), 7.33 (d, 2H), 7.13 (d, 2H), 7.09 (s, 1H), 6.20 (d, 1H), 4.65 (m, 1H), 3.78 (s, 3H), 2.17 (s, 3H), 1.72 (m, 2H), 1.67 (m, 1H), 0.94 (d, 3H), 0.91 (d, 3H).

reactant | 3-methyl-1-(2-methyl-4′-(trifluoromethyl)biphenyl-4-yl)butan-1-amine | 0.778 mmol, 250 mg | CC(CC(N)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)C | C19H22F3N
reactant | methyl 6-fluoronicotinate | 1.17 mmol, 264 mg | FC1=NC=C(C(=O)OC)C=C1 | C7H6FNO2
reactant | potassium carbonate | 2.33 mmol, 323 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | methyl 6-(3-methyl-1-(2-methyl-4′-(trifluoromethyl) biphenyl-4-yl)butylamino)nicotinate | 300 mg | CC(CC(C1=CC(=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C)NC1=NC=C(C(=O)OC)C=C1)C | C26H27F3N2O2
